US05731322
(±)-trans-2-Aminocarbonyl-6-ethyl-8a-(3-methoxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline
3.24 g (10 mmol) of (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride, 6.16 g (30.0 mmol) of 2-phenylhydrazono-3-oxobutyramide, 2.46 g (7.0 mmol) of CH3COONa, 7.85 g (120.0 mmol) of zinc dust and 15 ml of glacial acetic acid were treated as described in example 1. The residue was purified by chromatography on silica gel (Et2O-EtOAc/MeOH 0%→50%) yielding 3.0 g of oily product which was triturated in Et2O yielding 2.5 g of the title compound. M.p.=176°-178° C.

reactant | (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride | 10 mmol, 3.24 g | Cl.C(C)N1C[C@@H]2CCC(C[C@]2(CC1)C1=CC(=CC=C1)OC)=O
reactant | 2-phenylhydrazono-3-oxobutyramide | 30.0 mmol, 6.16 g | C1(=CC=CC=C1)NN=C(C(=O)N)C(C)=O | C10H11N3O2
reactant | CH3COONa | 7.0 mmol, 2.46 g | CC(=O)O[Na]
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 120.0 mmol, 7.85 g | [Zn] | Zn
product | (±)-trans-2-Aminocarbonyl-6-ethyl-8a-(3-methoxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline | 3.0 g | NC(=O)C1=C(C2=C(C[C@@]3(CCN(C[C@H]3C2)CC)C2=CC(=CC=C2)OC)N1)C | C22H29N3O2
